* baseline transfer eps_s=0.005
.include bsim4_nmos.subckt
Vdd d 0 dc 1.0
Vgs g 0 dc 0
Vss s 0 dc 0.0
Vbb b 0 dc 0.0
Xdev d g s b bsim4_nmos W=10u L=180n
.dc Vgs 0.0 1.2 0.049999999999999996
.print dc v(g) i(Vdd)
.end
